US06943159B1
A mixture of 4-((2,2-dimethylpropanoyl)amino)phenylboronic acid (2.0 g, 9 mmol), 2-chloropyrimidine (0.8 g, 7 mmol), Pd(PPh3)2Cl2 (100 mg, 2 mol %) 1,2-dimethoxyethane (40 ml) and Na2CO3 (2M, 7 ml, 14 mmol) were refluxed under N2 for 5 h. The mixture was diluted with 10% Na2CO3 (20 ml) and extracted with EtOAc (3×50 ml). The organic layer was dried (Na2SO4) and the solvent was removed in vacuo. The crude product was recrystallised from MeOH/water (1:1) yielding 0.52 g (85%) of N-(4-(2-pyrimidinyl)phenyl)-2,2-dimethylpropanamide as colorless crystals.

reactant | 4-((2,2-dimethylpropanoyl)amino)phenylboronic acid | 9 mmol, 2.0 g | CC(C(=O)NC1=CC=C(C=C1)B(O)O)(C)C | C11H16BNO3
reactant | 2-chloropyrimidine | 7 mmol, 0.8 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | 1,2-dimethoxyethane | 40 ml | COCCOC | C4H10O2
solvent | Na2CO3 | 20 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)2Cl2 | 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | Na2CO3 | 14 mmol, 2M, 7 ml | C(=O)([O-])[O-].[Na+].[Na+]
product | N-(4-(2-pyrimidinyl)phenyl)-2,2-dimethylpropanamide | 0.52 g, 85% | N1=C(N=CC=C1)C1=CC=C(C=C1)NC(C(C)(C)C)=O | C15H17N3O
